US06919353B2
To a solution of ethyl vinylether (10 mL, 104 mmol) in THF (50 mL) at −78° C. was added tert-BuLi (1.7M, pentane, 45 mL, 76 mmol) dropwise. The mixture was stirred at −10° C. for 15 min then cooled to −78° C. and 3-pentanone (5.0 g, 58 mmol, in 5 mL of THF) was added dropwise. The resulting reaction mixture was allowed to warm slowly to 21° C., then diluted with a saturated ammonium chloride solution and ethyl acetate. The organic extract was stirred with 6 mL of HCl 2% for 18 h then washed (H2O, brine), dried (MgSO4), filtered and concentrated. The residue was purified by flash chromatography (eluting with hexane/ethyl acetate, 95:5) to provide the 3-ethyl-3-hydroxy-pentan-2-one compound as an oil.

reactant | ethyl vinylether | 104 mmol, 10 mL | C(C)OC=C | C4H8O
reactant | tert-BuLi | 76 mmol, 1.7M, 45 mL | [Li]C(C)(C)C
reactant | 3-pentanone | 58 mmol, 5 mL, 5.0 g | CCC(CC)=O | C5H10O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-ethyl-3-hydroxy-pentan-2-one | C(C)C(C(C)=O)(CC)O | C7H14O2
